US06531502B1
5-Formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (591 mg), 6-methoxy-2-oxindole (333 mg) and piperidine (0.1 mL) in ethanol (4 mL) were stirred at 90° C. for 2 hours. Potassium hydroxide (537 mg) was added to the mixture and it was then stirred at 95° C. for and additional hour. The reaction mixture was cooled and concentrated, dissolved in water, and acidified with 2 N hydrochloric acid to pH 2. The precipitate was filtered, washed with water, and dried in a vacuum oven overnight to give 730 mg (99%) of 4-(2-carboxyethyl)-3-methyl-5-(6-methoxy-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid.

reactant | 5-Formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 591 mg | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OCC)C=O | C14H19NO5
reactant | 6-methoxy-2-oxindole | 333 mg | COC1=CC=C2CC(NC2=C1)=O | C9H9NO2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
reactant | Potassium hydroxide | 537 mg | [OH-].[K+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 4-(2-carboxyethyl)-3-methyl-5-(6-methoxy-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid | 730 mg, 99% | C(=O)(O)CCC=1C(=C(NC1C=C1C(NC2=CC(=CC=C12)OC)=O)C(=O)O)C | C19H18N2O6
